US05801173
N-(2-Pyridyl)-4-piperidinol
The title compound (3.5 g, 50%) was prepared as a semi solid from 2-chloropyridine (6.7 g) and 4-piperidinol (4 g) by an analogous procedure to that described in preparation 1.

reactant | 2-chloropyridine | 6.7 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | 4-piperidinol | 4 g | N1CCC(CC1)O | C5H11NO
product | N-(2-Pyridyl)-4-piperidinol | 3.5 g, 50% | N1=C(C=CC=C1)N1CCC(CC1)O | C10H14N2O
